US08222424B2
A mixture of 1-bromo-4-iodo benzene (0.500 g), 4-benzylpiperidine (0.25 mL), sodium-tert-butylate (0.238 g), tris(dibenzylideneacetone)dipalladium (0.016 g) and 2,2′-bis/diphenylphosphino)-1,1′-binaphtyl racemate (0.018 g) is dissolved in tetrahydrofuran and stirred at room temperature overnight. The reaction mixture is concentrated and the resulting residue is loaded on Celite and purified by silica gel chromatography (4:1 hexanes/ethyl acetate) to give 4-benzyl-1-(4-bromo-phenyl)-piperidine as a light yellow syrup. MS (m/z): 331 (M+1).

reactant | 1-bromo-4-iodo benzene | 0.500 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 4-benzylpiperidine | 0.25 mL | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 1,1′-binaphtyl | C1(=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C20H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.016 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-benzyl-1-(4-bromo-phenyl)-piperidine | C(C1=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)Br | C18H20BrN
